US04520196
A. 2-Mercapto-1-phenylbenzimidazole
To 18.6 g (0.10M) of N-phenyl-o-phenylenediamine in 100 ml ethanol, 4.8 g (0.12M) of sodium hydroxide in 20 ml water is added followed by 13 g (0.17M) of carbon disulfide. The mixture is heated to reflux for 5 hours. The reaction mixture is poured into 300 ml water and solid is collected. The crude material is recrystallized from ethanol and the recrystallized material weighs 25 g (74% yield) and melts at 195°-7° C.

reactant | N-phenyl-o-phenylenediamine | 0.10M, 18.6 g | C1(=CC=CC=C1)NC1=C(C=CC=C1)N | C12H12N2
reactant | sodium hydroxide | 0.12M, 4.8 g | [OH-].[Na+]
reactant | carbon disulfide | 0.17M, 13 g | C(=S)=S | CS2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
solvent | water | 300 ml | O | H2O
product | 2-Mercapto-1-phenylbenzimidazole | 74% yield | SC1=NC2=C(N1C1=CC=CC=C1)C=CC=C2 | C13H10N2S
